US08022076B2
A stirred suspension of 2-chloromethyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one (1.5 g, 5.42 mmol) and phosphoryl chloride (23 ml) was heated under reflux for 7 hours and then left to stand at ambient temperature for 18 hours. The excess phosphoryl chloride was removed in vacuo to give a dark residue, which was dissolved in dichloromethane (100 ml) and then washed with water (2×100 ml) followed by saturated sodium hydrogen carbonate solution (100 ml). The organic extract was dried (MgSO4) and the solvent was removed in vacuo to give the crude product. Purification by flash chromatography (silica) eluting with dichloromethane gave 4-chloro-2-chloromethyl-5-phenylthieno[2,3-d]pyrimidine as a pale-yellow solid (1.42 g).

reactant | 2-chloromethyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one | 5.42 mmol, 1.5 g | ClCC=1NC(C2=C(N1)SC=C2C2=CC=CC=C2)=O | C13H9ClN2OS
reactant | phosphoryl chloride | 23 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-chloro-2-chloromethyl-5-phenylthieno[2,3-d]pyrimidine | 1.42 g | ClC=1C2=C(N=C(N1)CCl)SC=C2C2=CC=CC=C2 | C13H8Cl2N2S
